US06635640B2
1-(2-Oxo-4-pyridin-4-yl-1,2-dihydroindol-3-ylidenemethyl)-6,7-dihydro-2H-pyrano[3,4-c]pyrrol-4-one
A mixture of 4-pyridin-4-yl-1,3-dihydroindol-2-one (50 mg, 0.24 mmol), 4-oxo-2,4,6,7-tetrahydropyrano[3,4-c]pyrrole-1-carbaldehyde (39.2 mg, 0.24 mmol) and piperidine (1 drop) in ethanol (2 mL) was stirred at room temperature for 48 hours. The precipitate which formed was collected by vacuum filtration, washed with ethanol and dried to give 15 mg (17%) of the title compound.

reactant | 4-pyridin-4-yl-1,3-dihydroindol-2-one | 0.24 mmol, 50 mg | N1=CC=C(C=C1)C1=C2CC(NC2=CC=C1)=O | C13H10N2O
reactant | 4-oxo-2,4,6,7-tetrahydropyrano[3,4-c]pyrrole-1-carbaldehyde | 0.24 mmol, 39.2 mg | O=C1OCCC=2C1=CNC2C=O | C8H7NO3
catalyst | piperidine | 1 drop | N1CCCCC1 | C5H11N
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | 1-(2-Oxo-4-pyridin-4-yl-1,2-dihydroindol-3-ylidenemethyl)-6,7-dihydro-2H-pyrano[3,4-c]pyrrol-4-one | 15 mg, 17% | O=C1NC2=CC=CC(=C2C1=CC1=C2C(=CN1)C(OCC2)=O)C2=CC=NC=C2 | C21H15N3O3
